US09328096B2
5-(2-chloro-5-(3-fluoropyridin-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide
To the solution of 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide in dioxane (Preparation 10, 0.63 mmol, 15 mL) was added 2-bromo-3-fluoropyridine (58 mg, 0.33 mmol), Na2CO3 (46.6 mg, 0.44 mmol) in water (1 mL) and Pd(dppf)Cl2 (9 mg, 0.01 mmol). The reaction was degassed with nitrogen for 30 minutes and heated to 110° C. for 17 hours. The reaction was cooled and concentrated in vacuo. The residue was eluted through a small plug of silica with EtOAc followed by reverse phase column chromatography eluting with 3-60% MeCN (containing 0.1% NH4OH) in water (containing 0.1% NH4OH) to afford the title compound (20 mg, 19%).

reactant | 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)NC2CC2)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C26H28BClN4O4
reactant | dioxane | 0.63 mmol, 15 mL | O1CCOCC1 | C4H8O2
reactant | 2-bromo-3-fluoropyridine | 0.33 mmol, 58 mg | BrC1=NC=CC=C1F | C5H3BrFN
reactant | Na2CO3 | 0.44 mmol, 46.6 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-chloro-5-(3-fluoropyridin-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide | 20 mg, 19% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)NC2CC2)C=C(C=C1)C1=NC=CC=C1F | C25H19ClFN5O2
